US07250535B2
In a 200 ml four-necked flask thoroughly purged with nitrogen, 9.0 g (0.05 mol) of di-tert-butylphosphinous chloride, 0.05 g (0.0005 mol (corresponding to 1% by mol)) of copper(I) chloride and 20 ml of tetrahydrofuran were placed. To the contents of the flask, a Grignard reagent solution previously prepared from 6.0 g (0.065. mol) of tert-butyl chloride and 1.9 g (0.078 mol) of metallic magnesium in 50 ml of tetrahydrofuran was dropwise added over a period of 1 hour with maintaining the temperature at 20° C. to 25° C. After the dropwise addition was completed, stirring was conducted at a temperature of 35° C. to 40° C. for 3 hours. Then, disappearance of di-tert-butylphosphinous chloride was confirmed by gas chromatography. Thereafter, 20 ml of toluene and 20 ml of a 5% sulfuric acid aqueous solution were added to the reaction solution to perform liquid separation. Then, the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, followed by further distillation. Then, fractions given by distillation at 111° C. to 113° C. under reduced pressure of 15 Torr were collected. As a result, 9.2 g (purity: 99.0%) of the aimed tri-tert-butylphosphine was obtained as an oily substance. The yield was 90.2%.

reactant | di-tert-butylphosphinous chloride | 0.05 mol, 9.0 g | C(C)(C)(C)P(C(C)(C)C)Cl | C8H18ClP
reactant | tert-butyl chloride | 6.0 g | C(C)(C)(C)Cl | C4H9Cl
reactant | magnesium | 0.078 mol, 1.9 g | [Mg] | Mg
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | copper(I) chloride | 0.0005 mol, 0.05 g | [Cu]Cl
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | tri-tert-butylphosphine | 9.2 g, yield was 90.2% | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
